US04254267
(C) (±)-1-[3-(Acetylthio)-1-oxopropyl]-4,5-dihydro-3-(2-thienyl)-1H-pyrazole-5-carboxylic acid
(±)-4,5-Dihydro-3-(2-thienyl)-1H-pyrazole-5-carboxylic acid is dissolved in aqueous Na2CO3 (1.38 g) at pH 8.6. The temperature is lowered to 5° C. and 3-(acetylthio)propionyl chloride (4.15 g) and a 25% solution of Na2CO3 are added simultaneously maintaining the pH at 8-9. The final pH is 8.9 and the reaction is stirred for 2 hours at room temperature. It is then extracted with ethyl acetate and the ethyl acetate is discarded. The aqueous layer is made strongly acid with 20% HCl and the gummy precipitate is extracted with ethyl acetate. The ethyl acetate is dried over MgSO4 and removed to yield a viscous residue (7.2 g) which is triturated with ether to yield 5.1 g of material, melting point 127°-130° C., dec. After recrystallization from CH3CN (very soluble) the melting point is constant at 134°-136° C., dec.

reactant | (±)-4,5-Dihydro-3-(2-thienyl)-1H-pyrazole-5-carboxylic acid | S1C(=CC=C1)C1=NNC(C1)C(=O)O | C8H8N2O2S
reactant | 3-(acetylthio)propionyl chloride | 4.15 g | C(C)(=O)SCCC(=O)Cl | C5H7ClO2S
solvent | Na2CO3 | 1.38 g | C(=O)([O-])[O-].[Na+].[Na+]
product | (±)-1-[3-(Acetylthio)-1-oxopropyl]-4,5-dihydro-3-(2-thienyl)-1H-pyrazole-5-carboxylic acid | 7.2 g | C(C)(=O)SCCC(=O)N1N=C(CC1C(=O)O)C=1SC=CC1 | C13H14N2O4S2
